US06251921B1
Preparation of (S)-2-Amino-3-[4-[6-hydroxy-3-[3-methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]benzo[b]thiophen-2-yl]phenoxy]propanol
O-[4-[6-Hydroxy-3-[3-methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]benzo[b]thiophen-2-yl]phenyl]-L-serine methyl ester (25 mg, 0.045 mmol) in THF:CH2Cl2 (3:1, 4 mL) was treated with lithium aluminum hydride (12 mg) at ambient temperature under argon for 3 h. The reaction was quenched with water (0.5 mL) and sodium hydroxide solution (1.0 M, 1 mL) and stirred for 30 more min before dilution with water (50 mL) and extracting with ethyl acetate (50 mL×3). The combined organic layers were dried with sodium sulfate and concentrated under reduced pressure. Preparative thin layer chromatography with Et3N:MeOH:EtOAc (10:20:70) afforded the product as a white solid (8 mg, 34%).

reactant | O-[4-[6-Hydroxy-3-[3-methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]benzo[b]thiophen-2-yl]phenyl]-L-serine methyl ester | 0.045 mmol, 25 mg | COC([C@@H](N)COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)CC2=CC(=C(C=C2)CN2CCCC2)OC)=O | C31H34N2O5S
reactant | lithium aluminum hydride | 12 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF CH2Cl2 | 4 mL | C1CCOC1.C(Cl)Cl
product | (S)-2-Amino-3-[4-[6-hydroxy-3-[3-methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]benzo[b]thiophen-2-yl]phenoxy]propanol | 8 mg, 34% | N[C@@H](CO)COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)CC2=CC(=C(C=C2)CN2CCCC2)OC | C30H34N2O4S
